US07462724B2
5-acetylthiophene-2-carboxylic acid (2-amino-3-carbamoylphenyl) amide
To a solution of 5-acetylthiophene-2-carboxylic acid (1.80 g, 10.55 mmol) in pyridine (12 mL) and N,N-dimethylformamide (12 mL) was added 1,1′-carbonyldiimidazole (1.88 g, 11.60 mmol) and the mixture stirred at 45° C. for 4 hours. 2,3-Diaminobenzamide dihydrochloride (synthesized as described in U.S. Pat. No. 6,737,421, column 11, EXAMPLE 2, step (e), 2.36 g, 10.55 mmol) was added and the mixture was stirred at ambient temperature overnight. The reaction mixture was concentrated and the residue partitioned between ethyl acetate and water. The resulting yellow solid was collected by filtration, washed with water and ethyl acetate and dried to give the title compound (2.91 g, 91%). MS (APCI): 304 (M+1)+.

reactant | 5-acetylthiophene-2-carboxylic acid | 10.55 mmol, 1.80 g | C(C)(=O)C1=CC=C(S1)C(=O)O | C7H6O3S
reactant | 1,1′-carbonyldiimidazole | 11.60 mmol, 1.88 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2,3-Diaminobenzamide dihydrochloride | Cl.Cl.NC1=C(C(=O)N)C=CC=C1N
solvent | pyridine | 12 mL | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
product | 5-acetylthiophene-2-carboxylic acid (2-amino-3-carbamoylphenyl) amide | 2.91 g, 91% | NC1=C(C=CC=C1C(N)=O)NC(=O)C=1SC(=CC1)C(C)=O | C14H13N3O3S
